US06197962B1
First, 8.22 g (115 mmol) of crotonaldehyde and 9.22 g (55.2 mmol) of benzenesulfonyl cyanide were introduced to the same reaction vessel as in Example 1. Toluene (15 ml) as the solvemnt and butanol (1.5 ml) were added, and 677 mg (5.55 mmol) of sodium perchlorate was added. Then the mixture was heated under reflux for 18 hours while agitating at an internal temperature of 110° C. in a nitrogen atmosphere, separating and removing water that was produced. After this solution was cooled to room temperature, the low-boiling components, such as solvent, etc., were removed under reduced pressure and the resulting concentrate was cooled in an ice bath to precipitate crystals. The crystals were filtered with a glass filter and washed with 10 ml of toluene that had been cooled to 5° C. or lower. Then the crystals were dried for 2 hours in vacuo to give 11.2 g of 2-benzenesulfonylpyridine as colorless crystals (purity of 98%, yield of 91% based on benzenesulfonyl cyanide).

reactant | crotonaldehyde | 115 mmol, 8.22 g | C(\C=C\C)=O | C4H6O
reactant | benzenesulfonyl cyanide | 55.2 mmol, 9.22 g | C1(=CC=CC=C1)S(=O)(=O)C#N | C7H5NO2S
reactant | Toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium perchlorate | 5.55 mmol, 677 mg | Cl(=O)(=O)(=O)[O-].[Na+]
solvent | butanol | 1.5 ml | C(CCC)O | C4H10O
product | 2-benzenesulfonylpyridine | 11.2 g, yield of 91% | C1(=CC=CC=C1)S(=O)(=O)C1=NC=CC=C1 | C11H9NO2S
